US05654299
N-[2-(3,4-Dichlorophenyl)-4-(4-phenylpiperidino)butyl]-N-methylbenzamide hydrochloride
A solution of N-[2-(3,4-dichlorophenyl)-4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-N-methylbenzamide (0.28 g) in methanol (10 mL) was treated with methanolic hydrogen chloride (2 mL), and 10% (w/w) palladium on carbon (0.03 g) was added. The reaction mixture was subjected to hydrogenation at atmospheric pressure for 2.5 hours. At the end of this period, the reaction mixture was treated with additional 10% palladium on carbon (0.03 g); and the hydrogenation was continued for an additional 16 hours. The reaction mixture was filtered through diatomaceous earth and evaporated. The resulting material was treated with ether and evaporated; and the process was repeated twice. The residue was crystallized from a mixture of ethyl acetate, methanol, ether and hexane; washed with a mixture of ether and hexane; and dried under vacuum to afford the title compound as a white solid (0.11 g); mp 142°-148° C.; NMR (CD3OD): 1.8-2.4 (m, 6), 2.6-3.2 (m, 9), 3.5-3.9 (m, 4), 7.0-7.6 (m, 13); MS: m/z=495(M+1). Analysis for C29H32Cl2N2O·HCl·H2O: Calculated: C, 63.33; H, 6.41; N, 5.09; Found: C, 63.46; H, 6.12; N, 5.13.

reactant | N-[2-(3,4-dichlorophenyl)-4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-N-methylbenzamide | 0.28 g | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(=CC1)C1=CC=CC=C1 | C29H30Cl2N2O
reactant | hydrogen chloride | 2 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | 0.03 g | [Pd] | Pd
catalyst | palladium on carbon | 0.03 g | [Pd] | Pd
product | N-[2-(3,4-Dichlorophenyl)-4-(4-phenylpiperidino)butyl]-N-methylbenzamide hydrochloride | 0.11 g | Cl.ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)C1=CC=CC=C1 | InChI=1S/C29H32Cl2N2O.ClH/c1-32(29(34)24-10-6-3-7-11-24)21-26(25-12-13-27(30)28(31)20-25)16-19-33-17-14-23(15-18-33)22-8-4-2-5-9-22;/h2-13,20,23,26H,14-19,21H2,1H3;1H
